US08871753B2
Step A: N-(3-Aminophenyl)-3-nitrobenzenesulfonamide
Into a 1-neck round-bottom flask were added m-phenylenediamine (1.6 g, 14 mmol) and tetrahydrofuran (30 mL) and triethylamine (2.0 mL, 14 mmol). The mixture was cooled in ice bath and then m-nitrobenzenesulfonyl chloride (2.1 g, 9.6 mmol) was slowly added. The resultant mixture was warmed up to rt. after 1 h and EtOAc and water were then added. Aqueous layer was extracted again with EtOAc. The organics layers were combined, dried over Na2SO4 and the solvent was removed under vacuum. The crude was purified by silica gel column chromatography to give the desired product (2.5 g, 89%). LCMS for C12H11N3O4S (M+H)+: m/z=294.0. 1H NMR (300 MHz, CD3OD): δ 8.56 (t, J=2.0 Hz, 1H), 8.40 (ddd, J=8.2, 2.3, 1.2 Hz, 1H), 8.09 (ddd, J=7.8, 1.7, 1.0 HZ, 1H), 7.73 (t, J=8.1 Hz, 1H), 6.91 (t, J=8.1 Hz, 1H), 6.51 (t, J=2.2 Hz, 1H), 6.42 (ddd, J=8.1, 2.2, 1.0 Hz, 1H), 6.36 (ddd, J=7.9, 2.1, 1.0 Hz, 1H).

reactant | m-phenylenediamine | 14 mmol, 1.6 g | C1(=CC(=CC=C1)N)N | C6H8N2
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
reactant | triethylamine | 14 mmol, 2.0 mL | C(C)N(CC)CC | C6H15N
reactant | m-nitrobenzenesulfonyl chloride | 9.6 mmol, 2.1 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(3-Aminophenyl)-3-nitrobenzenesulfonamide | 2.5 g, 89% | NC=1C=C(C=CC1)NS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C12H11N3O4S
